US07018997B2
Step 3: (5R), (6Z)-6-(5H-Imidazo[2,1-a]isoindol-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt
(5R, 6RS)-6-[(RS)-Acetoxy-(5H-imidazo[2,1-a]isoindol-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (1.5 g) was dissolved in THF (21 mL) and acetonitrile (9.8 mL). Freshly activated Zn dust (6 g) and 0.5 M phosphate buffer (pH 6.4, 30.8 mL) were added to the reaction mixture. The reaction vessel was covered with foil to exclude light. The mixture was vigorously stirred for 2 h at room temperature. The mixture was cooled to 9° C., and 1 M NaOH aqueous solution was added to adjust pH to 7.5. The reaction solution was mixed with ethyl acetate and filtered through a pad of Celite. The pad was washed with water and the aqueous layer was separated. The aqueous layer was concentrated to 25 mL under high vacuum at 35° C. The concentrate was applied to Diaion HP-21 (100 mL, Mitsubishi Kasei Co. Ltd.) resin column chromatography. After adsorbing, the column was eluted with water and then with 5–15% acetonitrile-water. The combined fractions was concentrated under high vacuum at 35° C. and lyophilized to give the title compound as a yellow amorphous solid (527 mg, 58%). Mp 170° C. (dec); 1H NMR (400 MHz, D2O) δ 4.62 (s, 2H), 6.27 (s, 1H), 6.56 (s, 1H), 6.78 (s, 1H), 7.22–7.31 (m, 4H), 7.52 (d, 1H, J=6.7 Hz).

reactant | (5R, 6RS)-6-[(RS)-Acetoxy-(5H-imidazo[2,1-a]isoindol-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 1.5 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(CC4=CC=CC=C34)C2)OC(C)=O)=O)C=C1 | C26H19BrN4O7S
reactant | phosphate | 0.5 M, 30.8 mL, pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 9.8 mL | C(C)#N | C2H3N
catalyst | Zn | 6 g | [Zn] | Zn
product | (6Z)-6-(5H-Imidazo[2,1-a]isoindol-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt | 527 mg, 58% | [Na+].N=1C(=CN2C1C1=CC=CC=C1C2)\C=C\2/C1SC=C(N1C2=O)C(=O)[O-] | InChI=1S/C17H11N3O3S.Na/c21-15-12(16-20(15)13(8-24-16)17(22)23)5-10-7-19-6-9-3-1-2-4-11(9)14(19)18-10;/h1-5,7-8,16H,6H2,(H,22,23);/q;+1/p-1/b12-5-;
